US05135932
6-[4-(3-Phthalimidopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
34 g (78.2 mmol) of methyl 4-oxo-4-[4-(3-phthalimidopropylsulphonyl)phenyl]butyrate are refluxed for two hours in a solution of 6 ml (120 mmol) of hydrazine hydrate (99%) in 350 ml of glacial acetic acid. Then the mixture is poured onto 2.5 liters of ice water, the product precipitated is suction filtered and dried in a circulating air dryer at 80° C.

reactant | methyl 4-oxo-4-[4-(3-phthalimidopropylsulphonyl)phenyl]butyrate | 78.2 mmol, 34 g | O=C(CCC(=O)OC)C1=CC=C(C=C1)S(=O)(=O)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H21NO7S
reactant | hydrazine hydrate | 120 mmol, 6 ml | O.NN
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(3-Phthalimidopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | C1(C=2C(C(N1CCCS(=O)(=O)C1=CC=C(C=C1)C=1CCC(NN1)=O)=O)=CC=CC2)=O | C21H19N3O5S
